US05948820
(1) Diethyl 2-ethyl-2-(2-(4-(4-phenylbutyloxy)phenyl)ethyl)malonate
To a suspension of sodium hydride (4.3 g) in dimethylformamide (212 ml) was added diethyl ethylmalonate (20 g) at 0° C. and the mixture was stirred at room temperature for an hour. To the solution, 2-(4-(4-phenylbutyloxy)phenyl)ethyl iodide (40 g) was dropwise added at 0° C., and the mixture was stirred for 20 minutes and allowed to stand at room temperature overnight. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and a saturated brine and dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure and the residue obtained was purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=9:1) to give the subject compound (46 g).

reactant | sodium hydride | 4.3 g | [H-].[Na+]
reactant | diethyl ethylmalonate | 20 g | C(C)C(C(=O)OCC)C(=O)OCC | C9H16O4
reactant | 2-(4-(4-phenylbutyloxy)phenyl)ethyl iodide | 40 g | C1(=CC=CC=C1)CCCCOC1=CC=C(C=C1)CCI | C18H21IO
reactant | water | O | H2O
solvent | dimethylformamide | 212 ml | CN(C=O)C | C3H7NO
product | Diethyl 2-ethyl-2-(2-(4-(4-phenylbutyloxy)phenyl)ethyl)malonate | 46 g | C(C)C(C(=O)OCC)(C(=O)OCC)CCC1=CC=C(C=C1)OCCCCC1=CC=CC=C1 | C27H36O5
